US07592477B2
sodium {(4-dec-1-ynylbenzyl)[4-(trifluoromethyl)benzyl]-amino}-(oxo)acetate
The same procedure as employed in the preparation of Example 2 but using {(4-dec-1-ynylbenzyl)[4-(trifluoromethyl)benzyl]amino}(oxo)acetic acid and sodium hydroxide gave the title compound as a white solid. M−(LC/MS(ESI)): 472.2. HPLC (Condition A), Rt: 5.54 min (HPLC purity: 99.6%).

reactant | {(4-dec-1-ynylbenzyl)[4-(trifluoromethyl)benzyl]amino}(oxo)acetic acid | C(#CCCCCCCCC)C1=CC=C(CN(CC2=CC=C(C=C2)C(F)(F)F)C(C(=O)O)=O)C=C1 | C27H30F3NO3
reactant | sodium hydroxide | [OH-].[Na+]
product | sodium {(4-dec-1-ynylbenzyl)[4-(trifluoromethyl)benzyl]-amino}-(oxo)acetate | C(#CCCCCCCCC)C1=CC=C(CN(CC2=CC=C(C=C2)C(F)(F)F)C(C(=O)[O-])=O)C=C1.[Na+] | InChI=1S/C27H30F3NO3.Na/c1-2-3-4-5-6-7-8-9-10-21-11-13-22(14-12-21)19-31(25(32)26(33)34)20-23-15-17-24(18-16-23)27(28,29)30;/h11-18H,2-8,19-20H2,1H3,(H,33,34);/q;+1/p-1
